US05023255
(a) N-(4-Methoxy-3-methylphenyl)glycine, methyl ester (Intermediate 96)
A mixture of 4-methoxy-3-methylaniline (5 g, 0.0364 mol), methyl glyoxylate (5.5 g, 0.0619 mol) and palladium over charcoal (3.7 g; 10%) in methanol (300 ml) was stirred under a hydrogen atmosphere for 1 hour. The suspension was filtered through hyflo and evaporated to give a yellow solid. This was triturated with ether at ~-78° C. and filtered to give the title compound as a pale yellow solid (3.8 g, 50%) m.p. 69°-71° C.

reactant | 4-methoxy-3-methylaniline | 0.0364 mol, 5 g | COC1=C(C=C(N)C=C1)C | C8H11NO
reactant | methyl glyoxylate | 0.0619 mol, 5.5 g | C(C=O)(=O)OC | C3H4O3
reactant | charcoal | 3.7 g | C | CH4
solvent | methanol | 300 ml | CO | CH4O
catalyst | palladium | [Pd] | Pd
product | N-(4-Methoxy-3-methylphenyl)glycine, methyl ester | 3.8 g, 50% | COC1=C(C=C(C=C1)NCC(=O)OC)C | C11H15NO3
